US08975400B2
7-((3-chloro-4-(3,4-difluorophenoxy)benzyl)oxy)-2,3-dihydroimidazo[1,2-c]pyrim-idin-5(1H)-one
Prepared in a manner similar to that described for E60 using tert-butyl 7-((3-chloro-4-(3,4-difluorophenoxy)benzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1 (5H)-carboxylate (50 mg, 0.099 mmol) in DMF (2 mL) and silica gel (150 mg).

reactant | tert-butyl 7-((3-chloro-4-(3,4-difluorophenoxy)benzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1 (5H)-carboxylate | 0.099 mmol, 50 mg | ClC=1C=C(COC=2C=C3N(C(N2)=O)CCN3C(=O)OC(C)(C)C)C=CC1OC1=CC(=C(C=C1)F)F | C24H22ClF2N3O5
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 7-((3-chloro-4-(3,4-difluorophenoxy)benzyl)oxy)-2,3-dihydroimidazo[1,2-c]pyrim-idin-5(1H)-one | ClC=1C=C(COC=2C=C3N(C(N2)=O)CCN3)C=CC1OC1=CC(=C(C=C1)F)F | C19H14ClF2N3O3
